US07517875B2
4-Aminomethyl-piperidine-1-carboxylic acid tert-butyl ester (0.394 g, 1.84 mmol) was dissolved in acetonitrile (3 ml). A solution of thiocarbonyldiimidazole (0.340 g, 1.91 mmol) and imidazole (0.052 g, 0.77 mmol) in acetonitrile (6 ml) was added dropwise over 3 minutes, at 0° C. The mixture was stirred at room temperature for 1 hour, 3,4-diaminobenzoic acid ethyl ester (0.371 g, 2.06 mmol) was added to the reaction mixture, and the mixture was stirred at 50° C. for 5.5 hours. Diisopropylcarbodiimide (0.32 ml) was further added, and the mixture was stirred overnight at 50° C. Saturated brine was then added to the obtained reaction mixture, extraction was performed with ethyl acetate (100 ml), and the organic layer was dried overnight over anhydrous sodium sulfate. After filtering out the desiccant and concentrating the filtrate, the obtained light brown oil was purified by silica gel column chromatography (dichloromethane/methanol=49/1 →19/1) to obtain 2-[(1-tert-butoxycarbonyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazole-5-carboxylic acid ethyl ester as a yellow amorphous solid.

reactant | 4-Aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 1.84 mmol, 0.394 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
reactant | thiocarbonyldiimidazole | 1.91 mmol, 0.340 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | imidazole | 0.77 mmol, 0.052 g | N1C=NC=C1 | C3H4N2
reactant | 3,4-diaminobenzoic acid ethyl ester | 2.06 mmol, 0.371 g | C(C)OC(C1=CC(=C(C=C1)N)N)=O | C9H12N2O2
reactant | Diisopropylcarbodiimide | 0.32 ml | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-[(1-tert-butoxycarbonyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(NC(=N2)NCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C21H30N4O4
